US07858624B2
To a solution of (R)-tert-butyl 2-((R)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)morpholine-4-carboxylate (0.38 g, 0.88 mmol) in MeCN (50 mL), 2 N aq HCl (50 mL) was added slowly at rt. The resulting solution was stirred at rt overnight, basified to pH=10 with 10 N aq NaOH, and evaporated under reduced pressure to remove MeCN. The aqueous layer was extracted with CH2Cl2 (4×5 mL). The combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed in vacuo to give (R)-1-(3-chloro-2-fluorophenyl)-5-methoxy-1-((R)-morpholin-2-yl)pentan-1-ol (0.27 g, 93%) as a free amine. The crude product was used for next step without purification; MS m/z 332 (M+H+).

reactant | (R)-tert-butyl 2-((R)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)morpholine-4-carboxylate | 0.88 mmol, 0.38 g | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C21H31ClFNO5
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | MeCN | 50 mL | CC#N | C2H3N
solvent | HCl | 2 N, 50 mL | Cl | ClH
product | (R)-1-(3-chloro-2-fluorophenyl)-5-methoxy-1-((R)-morpholin-2-yl)pentan-1-ol | 0.27 g, 93% | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCO1)F | C16H23ClFNO3
